US06455548B2
Preparation of 4-(3-hydroxypropyloxymethyl)piperidine
A solution of 5.0 g (36 mmol) of 3-bromopropanol, 1.04 g (54 mmol) of chlorotriisopropylsilane, and 7.1 g (104 mmol) of imidazole in 50 mL of CH2Cl2 was stirred for 3 d. To the reaction mixture was added 100 mL of H2O and the mixture was extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:ethyl acetate=19:1) to give the title compound.

reactant | 3-bromopropanol | 36 mmol, 5.0 g | BrCCCO | C3H7BrO
reactant | chlorotriisopropylsilane | 54 mmol, 1.04 g | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | imidazole | 104 mmol, 7.1 g | N1C=NC=C1 | C3H4N2
reactant | H2O | 100 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-hydroxypropyloxymethyl)piperidine | OCCCOCC1CCNCC1 | C9H19NO2
